US08378095B2
To a stirred solution of 5-(4-methoxyphenyl)-2-(phenylamino)oxazole-4-carboxylic acid (0.012 g, 0.039 mmol), 1-hydroxybenzotriazole hydrate (0.009 g, 0.059 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.011 g, 0.057 mmol) in DMF (5 mL) was added a 0.5M ammonia in dioxane solution (0.116 mL, 0.058 mmol) and the resulting mixture stirred at room temperature overnight. The solvent was removed in vacuo and the residue purified by preparative HPLC to afford 5-(4-methoxyphenyl)-2-(phenylamino)oxazole-4-carboxamide (0.0045 g, 0.015 mmol, 38%). 1H NMR (DMSO) δ 3.82 (3H, s), 6.98 (1H, t), 7.04 (2H, d), 7.33 (2H, t), 7.51 (1H, br, s), 7.60 (1H, br, s), 7.73 (2H, d), 8.16 (2H, d), 10.40 (1H, s). LCMS (2) Rt: 2.67 min; m/z (ES+) 310.

reactant | 5-(4-methoxyphenyl)-2-(phenylamino)oxazole-4-carboxylic acid | 0.039 mmol, 0.012 g | COC1=CC=C(C=C1)C1=C(N=C(O1)NC1=CC=CC=C1)C(=O)O | C17H14N2O4
reactant | 1-hydroxybenzotriazole hydrate | 0.059 mmol, 0.009 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.057 mmol, 0.011 g | Cl.CN(CCCN=C=NCC)C
reactant | ammonia | 0.5M | N | H3N
reactant | dioxane | 0.058 mmol, 0.116 mL | O1CCOCC1 | C4H8O2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 5-(4-methoxyphenyl)-2-(phenylamino)oxazole-4-carboxamide | 0.015 mmol, 0.0045 g, 38% | COC1=CC=C(C=C1)C1=C(N=C(O1)NC1=CC=CC=C1)C(=O)N | C17H15N3O3
